US08378104B2
Step C: 3-bromothieno[2,3-c]pyridine-2-carbonitrile
To a suspension of 3-bromothieno[2,3-c]pyridine-2-carboxamide (750 mg, 2.92 mmol) in acetonitrile (20 mL) was added phosphorus oxychloride (816 μL, 8.75 mmol) and the mixture was heated under N2 for 1 hour at 85° C. The same portion of phosphorus oxychloride was added every hour at 85° C. for a total of 6 h. The crude mixture was poured into saturated aqueous sodium carbonate on ice, to reach pH 7-8. DCM was added. The mixture was filtered to remove inorganic salts and the organic layer was separated. The DCM layer was washed with brine and dried over anhydrous Na2SO4. Purification by ISCO chromatography (100% DCM) afforded 205 mg (29%) of the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ 9.31-9.36 (m, 1 H), 8.71 (d, J=5.8 Hz, 1 H), 7.93 (dd, J=5.6, 1.0 Hz, 1 H); MS (ESI): 239.42, 241.35 [M+H]+; HPLC tR=1.04 min (HPLC: Analytical—2 min).

reactant | 3-bromothieno[2,3-c]pyridine-2-carboxamide | 2.92 mmol, 750 mg | BrC1=C(SC2=CN=CC=C21)C(=O)N | C8H5BrN2OS
reactant | phosphorus oxychloride | 8.75 mmol, 816 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-bromothieno[2,3-c]pyridine-2-carbonitrile | 205 mg, 29% | BrC1=C(SC2=CN=CC=C21)C#N | C8H3BrN2S
